data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:4]([cH:19][cH:17][cH:35][cH:8]1)-[c:5]1[c:2]([cH:9][cH:36][cH:18][cH:20]1)[N+:29]2=[CH:3][CH3:27].[cH:6]1[cH:10][c:37]([B-:38]2([c:16]3[s:25][c:15]([CH3:28])[cH:21][cH:30]3)[O:13][c:39]3[cH:32][cH:34][cH:33][cH:31][c:40]3[O:14]2)[cH:11][cH:7][c:12]1[C:26]([F:22])([F:23])[F:24]>>[c:1]12[c:4]([c:5]3[c:2]([cH:9][cH:36][cH:18][cH:20]3)[n:29]1[CH:3]([c:16]1[s:25][c:15]([CH3:28])[cH:21][cH:30]1)[CH3:27])[cH:19][cH:17][cH:35][cH:8]2.[cH:6]1[cH:10][c:37](-[b-:38]2[o+:13][c:39]3[cH:32][cH:34][cH:33][cH:31][c:40]3[o:14]2)[cH:11][cH:7][c:12]1[C:26]([F:22])([F:23])[F:24]", "epd": [["LP-/Pi+", [13], [38, 13]], ["Sigma-/Sigma+", [16, 38], [16, 3]], ["Pi-/LP+", [3, 29], [29]]]}
{"reaction_name": "Enamine-mediated redox-neutral aldehyde reaction", "rsmi": "[CH2:4]1[CH2:5][CH2:7][N:8]([H:9])[CH2:6]1.[H:1][CH:10]([CH:3]=[O:2])[CH3:11]>>[CH:3]([N:8]1[CH2:6][CH2:4][CH2:5][CH2:7]1)=[CH:10][CH3:11].[H:1][O:2][H:9]", "epd": [["LP-/Sigma+", [8], [3, 8]], ["Sigma-/LP+", [2, 3], [2]], ["LP-/Sigma+", [2], [2, 9]], ["Sigma-/LP+", [8, 9], [8]], ["Pi-/Pi+", [2, 3], [3, 10]], ["Sigma-/Sigma+", [1, 10], [1, 2]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:4][O:6][c:8]1[cH:24][cH:13][c:12]([CH:19]=[C:18]2[CH:20]=[C:9]([Br:16])[C:11](=[O:15])[C:10]([Br:17])=[CH:21]2)[cH:14][cH:25]1.[cH:1]1[n:2][c:7]([O-:5])[cH:23][cH:3][cH:22]1>>[cH:1]1[n:2]([CH:19]([c:12]2[cH:13][cH:24][c:8]([O:6][CH3:4])[cH:25][cH:14]2)[c:18]2[cH:20][c:9]([Br:16])[c:11]([O-:15])[c:10]([Br:17])[cH:21]2)[c:7](=[O:5])[cH:23][cH:3][cH:22]1", "epd": [["Pi-/Sigma+", [1, 2], [2, 19]], ["LP-/Pi+", [5], [5, 7]], ["Pi-/Pi+", [9, 20], [9, 11]], ["Pi-/LP+", [11, 15], [15]], ["Pi-/Pi+", [18, 19], [18, 20]], ["Pi-/Pi+", [3, 22], [1, 22]], ["Pi-/Pi+", [7, 23], [3, 23]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[C:5]1([O:32][Si:15]([CH3:33])([CH3:34])[CH3:35])=[C:31]([CH3:27])[CH2:20][CH2:14][O:28]1.[O:1]=[S:12](=[O:2])([N:11]([S:10][C:6]([F:7])([F:8])[F:9])[S:13](=[O:3])(=[O:4])[c:30]1[cH:18][cH:25][cH:22][cH:26][cH:19]1)[c:29]1[cH:16][cH:23][cH:21][cH:24][cH:17]1>>[C:5]1(=[O+:32][Si:15]([CH3:33])([CH3:34])[CH3:35])[O:28][CH2:14][CH2:20][C:31]1([S:10][C:6]([F:7])([F:8])[F:9])[CH3:27].[O:1]=[S:12](=[O:2])([N-:11][S:13](=[O:3])(=[O:4])[c:30]1[cH:18][cH:25][cH:22][cH:26][cH:19]1)[c:29]1[cH:16][cH:23][cH:21][cH:24][cH:17]1", "epd": [["LP-/Pi+", [32], [5, 32]], ["Pi-/Sigma+", [31, 5], [31, 10]], ["Sigma-/LP+", [10, 11], [11]]]}
{"reaction_name": "Mitsunobu substitution", "rsmi": "[O:2]=[C:12]([O:4][H:13])[c:6]1[cH:7][cH:10][cH:9][cH:11][cH:8]1.[OH:1][CH2:5][CH3:3]>>[O:2]=[C:12]([O:4][CH2:5][CH3:3])[c:6]1[cH:7][cH:10][cH:9][cH:11][cH:8]1.[OH:1][H:13]", "epd": [["LP-/Sigma+", [4], [4, 5]], ["Sigma-/LP+", [1, 5], [1]], ["LP-/Sigma+", [1], [1, 13]], ["Sigma-/LP+", [4, 13], [4]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[c:7]([CH:3]=[C:27]2[CH:34]=[CH:14][CH:15]=[CH:35]2)[cH:2][c:12]2[c:5]3[c:11]1[CH2:29][CH2:23][CH2:9][N:19]3[CH2:8][CH2:24][CH2:30]2.[cH:4]1[cH:6][cH:22][cH:13][c:16]2[c:10]1[N+:31]([CH3:18])=[CH:21][C:20]2=[CH:17][c:28]1[cH:25][cH:32][cH:36][cH:33][cH:26]1>>[cH:1]1[c:7](=[CH:3][C:27]2=[CH:35][CH:15]=[CH:14][CH:34]2[CH:17]([c:20]2[c:16]3[c:10]([cH:4][cH:6][cH:22][cH:13]3)[n:31]([CH3:18])[cH:21]2)[c:28]2[cH:25][cH:32][cH:36][cH:33][cH:26]2)[cH:2][c:12]2[c:5]3[c:11]1[CH2:29][CH2:23][CH2:9][N+:19]=3[CH2:8][CH2:24][CH2:30]2", "epd": [["LP-/Pi+", [19], [5, 19]], ["Pi-/Pi+", [11, 5], [1, 11]], ["Pi-/Pi+", [7, 1], [3, 7]], ["Pi-/Pi+", [27, 3], [35, 27]], ["Pi-/Pi+", [15, 35], [14, 15]], ["Pi-/Sigma+", [34, 14], [34, 17]], ["Pi-/Pi+", [17, 20], [20, 21]], ["Pi-/LP+", [21, 31], [31]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:3]1([Cl:19])=[C:4]([Cl:20])[C:7](=[O:9])[C:16]([C:21]#[N:23])=[C:17]([C:22]#[N:24])[C:6]1=[O:8].[CH3:1][C:5](=[C:2]=[N-:10])[c:11]1[cH:12][cH:14][cH:18][cH:15][cH:13]1>>[CH3:1][C:5]([C:2]#[N:10])([c:11]1[cH:12][cH:14][cH:18][cH:15][cH:13]1)[C:16]1([C:21]#[N:23])[C:7](=[O:9])[C:4]([Cl:20])=[C:3]([Cl:19])[C:6]([O-:8])=[C:17]1[C:22]#[N:24]", "epd": [["LP-/Pi+", [10], [2, 10]], ["Pi-/Sigma+", [5, 2], [5, 16]], ["Pi-/Pi+", [16, 17], [17, 6]], ["Pi-/LP+", [6, 8], [8]]]}
